US05965761
A mixture of 5 g of 6-bromo-2-naphthol, 50 ml of dimethyl sulphoxide, 3.3 ml of 6-chlorohexanol, 7.1 g of potassium iodide and 7.1 g of potassium carbonate (ground and activated at 80° C. in a high vacuum) was heated to 65° C. for 16 hrs. Then, the mixture was cooled, partitioned between ethyl acetate and water, and the organic phase was washed several times with water, dried over magnesium sulphate, filtered and evaporated. Chromatography of the residue on 200 g of silica gel with toluene/ethyl acetate (3:1) and subsequent crystallization form toluene/hexane (8:1) gave 5.2 g of 6-bromo-2-(6-hydroxyhexyloxy)naphthalene as a colorless solid.

reactant | 6-bromo-2-naphthol | 5 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 6-chlorohexanol | 3.3 ml | ClCCCCCCO | C6H13ClO
reactant | potassium iodide | 7.1 g | [I-].[K+]
reactant | potassium carbonate | 7.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 6-bromo-2-(6-hydroxyhexyloxy)naphthalene | 5.2 g | BrC=1C=C2C=CC(=CC2=CC1)OCCCCCCO | C16H19BrO2
